US05382686
A steel autoclave was filled with 157.6 g of o-chloronitrobenzene and 116.1 g of sodium phenolate. At room temperature, 150 g of liquid ammonia were pumped into the vessel, the mixture was heated to 600 with stirring for 15 hours and subsequently cooled. Removal of the ammonia by distillation and workup of the distillation residue gave 202 g of 2-nitrodiphenyl ether (94% of the theoretical yield), 98.5% pure.

reactant | o-chloronitrobenzene | 157.6 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | sodium phenolate | 116.1 g | C1(=CC=CC=C1)[O-].[Na+]
reactant | ammonia | N | H3N
product | 2-nitrodiphenyl ether | 202 g | C1=CC=C(C=C1)OC2=CC=CC=C2[N+](=O)[O-] | C12H9NO3
